* File: INV.pex.sp.pex
* Created: Sun May 11 15:33:14 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INV%GND! 2 9 11 16
c13 16 0 0.0147157f
c14 9 0 0.00371543f
c15 2 0 0.00196228f
r16 18 22 0.0271748
r17 14 22 0.0188364
r18 14 16 1.13279
r19 11 18 0.339579
r20 9 16 10
r21 2 22 30
.ends

.subckt PM_INV%OUT 1 4 7 16
c19 7 0 2.59632e-19
c20 4 0 0.00593628f
r21 16 20 0.154689
r22 12 14 0.388606
r23 10 20 1.7
r24 10 12 1.22702
r25 7 10 1.48836
r26 4 7 10
r27 1 14 15
r28 1 12 10
.ends

.subckt PM_INV%VDD! 2 8 11 16
c14 16 0 0.0249901f
r15 20 24 0.0291575
r16 16 19 0.388606
r17 14 24 0.016797
r18 14 19 1.28434
r19 11 20 0.270081
r20 8 19 15
r21 8 16 10
r22 2 24 30
.ends

.subckt PM_INV%IN 1 2 6 14 15 18 23
c28 18 0 1.09955e-19
c29 14 0 3.97047e-19
c30 6 0 1.46842e-19
c31 1 0 1.74407e-19
r32 23 27 0.154689
r33 18 27 1.7
r34 18 21 0.00485757
r35 14 21 25
r36 14 16 7.68531
r37 14 15 7.75092
r38 6 16 81.5276
r39 4 15 107.109
r40 2 6 46.5732
r41 1 4 27.3386
.ends

